US08202868B2
c.2.1: (S)-(+)-1-Acetoxy-3-bromo-2-methyl-propane
5 g of (S)-(+)-3-bromo-2-methyl-1-propanol (32.6 mmol) were stirred in 5 ml of pyridine at room temperature. 3.67 g of acetic anhydride (35.9 mmol) were added and the reaction mixture was stirred for 3 h at 70° C. Stirring was continued for 16 h at room temperature. 30 ml of water and 40 ml of ethyl acetate were added. The organic layer was separated and washed with a further portion of water, then dried over magnesium sulfate, filtered, and evaporated under reduced pressure, whereby 4.34 g of the title compound were obtained.

reactant | (S)-(+)-3-bromo-2-methyl-1-propanol | 32.6 mmol, 5 g | BrC[C@H](CO)C | C4H9BrO
reactant | acetic anhydride | 35.9 mmol, 3.67 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 30 ml | O | H2O
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (S)-(+)-1-Acetoxy-3-bromo-2-methyl-propane | 4.34 g | C(C)(=O)OC[C@@H](CBr)C | C6H11BrO2
